US08980937B2
3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidine (0.6 g) and 2-fluoro-5-iodobenzonitrile (0.57 g) was dissolved in toluene, which was then degassed 3 times. To the solution in toluene was added sodium tert-butoxide (0.20 g), Tris(dibenzylidene acetone)dipalladium chloroform complex (0.04 g) and Xantphos (0.07 g) under argon atmosphere, and the mixture was stirred at 80° C. for two hours. The mixture was cooled to room temperature and then diluted with ethyl acetate, which was then washed with water and dried over anhydrous magnesium sulfate. After the drying agent was filtered off, the solvent was distilled away under the reduced pressure, and the residue was then purified by silica gel chromatography to yield 5-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-2-fluorobenzonitrile (0.54 g). m.p. 184-186° C.

reactant | 3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidine | 0.6 g | ClC=1C=C(C=C(C1)Cl)C1(CNCC1)C(F)(F)F | C11H10Cl2F3N
reactant | 2-fluoro-5-iodobenzonitrile | 0.57 g | FC1=C(C#N)C=C(C=C1)I | C7H3FIN
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-2-fluorobenzonitrile | 0.54 g | ClC=1C=C(C=C(C1)Cl)C1(CN(CC1)C=1C=CC(=C(C#N)C1)F)C(F)(F)F | C18H12Cl2F4N2
